US07781454B2
3-chloro-5-({5-chloro-2-[(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-2H-1,2,3-benzotriazol-4-yl}oxy)benzonitrile
3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile (100 mg, 0.328 mmol), cesium carbonate (107 mg, 0.328 mmol) and 2-(chloromethyl)-5-phenyl-1,3,4-oxadiazole (64 mg, 0.328 mmol) were combined and suspended in DMF (2 mL). After 16 hours, the reaction mixture was quenched with saturated aqueous ammonium chloride (1 mL) and extracted with EtOAc (2×25 mL). The combined organic fractions were evaporated under reduced pressure. The resulting residue was purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. The product fractions were concentrated to yield the title compound. 1H NMR (DMSO-d6) δ 8.01 (d, J=9.1 Hz, 1H) 7.92 (d, J=8.6 Hz, 2H), 7.72 (m, 1H), 7.68 (m, 1H), 7.60 (m, 5H), 6.50 (s, 1H). HRMS (M+1)=463.0464.

reactant | 3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | 0.328 mmol, 100 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2NN=NC21)Cl | C13H6Cl2N4O
reactant | cesium carbonate | 0.328 mmol, 107 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(chloromethyl)-5-phenyl-1,3,4-oxadiazole | 0.328 mmol, 64 mg | ClCC=1OC(=NN1)C1=CC=CC=C1 | C9H7ClN2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-({5-chloro-2-[(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-2H-1,2,3-benzotriazol-4-yl}oxy)benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC2=NN(N=C21)CC=2OC(=NN2)C2=CC=CC=C2)Cl | C22H12Cl2N6O2
